US07297795B2
A suspension of 4-ethoxy-3-fluoroanilino-N-(2,4-dichloro-5-methoxyphenyl)-2-cyano-2-propenamide (6.28 9, 14.8 mmol) in 54 mL of acetonitrile and 2.0 mL of methanol was heated to reflux and phosphorous oxychloride (8.3 mL, 88.8 mmol) was added dropwise. The mixture was heated at reflux for 17 hours. The resultant solution was concentrated in vacuo and acetonitrile was added to the residue. The solid was collected by filtration, washed with acetonitrile. The solid was suspended in tetrahydrofuran and neutralized with concentrated ammonium hydroxide. After stirring for 30 minutes, water was added and the mixture was stirred for 1 hour. The solid was collected by filtration, washed with water, followed by 1:1 diethyl ether and hexane. The light yellow solid was dried in vacuo to provide 2.2 g (37%) of 4-[(2,4-dichloro-5-methoxyphenyl)amino]-6-ethoxy-7-fluoro-3-quinolinecarbonitrile, mp 185-187° C.; 1H NMR (400 MHz, DMSO-d6) δ 1.95 (t, J=7 Hz, 3H), 3.87 (s, 3H), 4.29 (q, J=7 Hz, 2H), 7.39 (s, 1H), 7.66-7.81 (m, 2H), 8.09 (d, J=9 Hz, 1H), 8.49 (s, 1H), 9.80 (s, 1H); MS (ES) m/z 406.1, 408.2 (M+H)+

reactant | 4-ethoxy-3-fluoroanilino-N-(2,4-dichloro-5-methoxyphenyl)-2-cyano-2-propenamide | 14.8 mmol | C(C)OC1=C(C=C(NC=C(C(=O)NC2=C(C=C(C(=C2)OC)Cl)Cl)C#N)C=C1)F | C19H16Cl2FN3O3
reactant | phosphorous oxychloride | 88.8 mmol, 8.3 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | acetonitrile | 54 mL | C(C)#N | C2H3N
solvent | methanol | 2.0 mL | CO | CH4O
product | 4-[(2,4-dichloro-5-methoxyphenyl)amino]-6-ethoxy-7-fluoro-3-quinolinecarbonitrile | 2.2 g, 37% | ClC1=C(C=C(C(=C1)Cl)OC)NC1=C(C=NC2=CC(=C(C=C12)OCC)F)C#N | C19H14Cl2FN3O2
